### PR TITLE
feat: Create Asymptotics/GrowthRates

### PR DESCRIPTION
**Pull request by Timeroot**
I'll copy the docstring from the file, because I think it explains pretty well what the goal here is. I'm trying to PR this into CSLib from [CircuitComp](https://github.com/Timeroot/CircuitComp/blob/main/CircuitComp/GrowthRate.lean).

# Asymptotic Growth Rates

## Named Growth Rates

This file collects about common "growth rates" that show up in complexity theory. While
`IsBigO` expresses growth rate up to a multiplicative constant, there are other important
classes not directly expressible as `IsBigO`. In rough order of literature frequency:
 * `GrowthRate.poly`: Polynomial growth, typically written `poly(n)` or `n ^ O(1)`.
 * `GrowthRate.polylog`: `(log n)^k`, that is, a polynomial in the logarithm.
 * `GrowthRate.exp`: Exponential growth with any rate, often written `exp(O(n))`
 * `GrowthRate.sublinear`: Sublinear growth, typically written `o(n)`.
 * `GrowthRate.quasilinear`: Growth as `O(n * (log n)^k)`
 * `GrowthRate.quasipoly`: Growth as `O(2 ^ (log n)^k)`
 * `GrowthRate.primitiveRecursive`: Growth as a primitive recursive function.
 * `GrowthRate.computable`: Any computable function. This excludes, for instance, the Busy
    Beaver function.

These are all given as a `GrowthRate := Set (ℕ → ℕ)`. We have `GrowthRate.bigO` as a thin wrapper
around `Asymptotics.IsBigO`, likewise for `littleO`.

We also provide aliases for some of the more common Big-O classes, in order to work
with them more cleanly.
 * `GrowthRate.const`: O(1)
 * `GrowthRate.log`: O(log n)
 * `GrowthRate.sqrt`: O(sqrt n)
 * `GrowthRate.linear`: O(n)
 * `GrowthRate.linearithmic`: O(n * log n)
 * `GrowthRate.two_pow`: O(2 ^ n)
 * `GrowthRate.e_pow`: O(Real.exp n)

Where they involve functions with different definitions on
distinct types (e.g. `Nat.sqrt` vs. `Real.sqrt`, or `(2 : ℕ) ^ ·` vs. `(2 : ℝ) ^ .`), we
want to have both forms.

Since all of these rates are `Set`s, their ordering of "faster growth" is given by the
subset relation `⊆`. That is, where you might want to write `f ≤ g` where `f` and `g`
are growth rates, this is best written as `f ⊆ g`.

## Lawful Growth Rates

We call a `GrowthRate` *lawful* if it is closed under dominating sequences, addition, and
composition with a sublinear function; and is nontrivial (it contains at least one function
besides zero).

This last condition is equivalent to containing the constant function 1; or, containing any
two distinct functions. These conditions are enough to get most desirable properties, and all
of above have `LawfulGrowthRate` instances. This allows reusable proofs for many common properties,
such as invariance under affine scaling.

## Main Theorems

Most theorems in this file fall into one of three categories:
 * Equivalent definitions. Sometimes it's more convenient to have expressions as `ℕ → ℕ`,
 sometimes it's more convenient to work with real numbers. (For instance, `e ^ n`, or different
 bases of logarithms.) For instance, `GrowthRate.log_iff_rlog` relates `GrowthRate.log` to the
 real function `Real.log`, instead of its definition in terms of `Nat.log 2`.
 * Ordering. For instance, `GrowthRate.exp_ssubset_primitiveRecursive` shows that `exp` is a strict
   subset of `primitiveRecursive`.
 * Closure properties. For instance, `GrowthRate.linear_comp` says that any LawfulGrowthRate is
   closed under composition with any function `f ∈ GrowthRate.linear`. `GrowthRate.poly_comp` says
   that `GrowthRate.poly` is closed under composition. And `GrowthRate.exp_mul` says that
   `GrowthRate.exp` is closed under multiplication.

```
/-- A **Growth rate** is just any collection of `ℕ → ℕ`, but as a type alias intended for
discussing how quickly certain classes functions grow, as is often needed in asymptotic runtime
or memory analysis in computational complexity theory. A `LawfulGrowthRate` instance puts
constraints on this set behaving well in various ways.
-/
abbrev GrowthRate := Set (ℕ → ℕ)
```

I realize this is a **big file** at the moment. I've already done a lot of cleanup (many of the proofs, but not the majority, were from Aristotle) but there's still plenty of room for improvement I'll admit. It's doing a lot of things, and a lot of them are messy! Converting between Real logs and powers, Ints, and Nats; different bases, different powers, showing these things are all equivalent. The hope is that when these invariably come up in other asymptotic analysis, it's a bit easier; and it gives a "canonical spelling" for certain classes of growth rates, in a way that is currently lacking.

I do think it's probably better to split the file, and I'm hoping for input as to where. Also especially looking for feedback on the choice of `LawfulGrowthRate` axioms, I could reasonably see having more or fewer.

### CODE REVIEW

**Comment by sorrachai** [comment]
I would recommend adding additional common classes (nearly linear and almost linear time have been standard terms in TCS).

GrowthRate.subpolynomial: Growth as O(n^{o(1)}) (e.g., 2^{sqrt{\log n}})
GrowthRate.nearly_linear: Growth as O(n * (log n)^k)
GrowthRate.almost_linear: Growth as O(n * n^o(1)) 

I would reserve quasi-linear for O(n*(alpha(n)), where alpha(n) is the inverse Ackermann function.

**Comment by ctchou** [comment]
There is also the iterated logarithm:
https://en.wikipedia.org/wiki/Iterated_logarithm

**Comment by Timeroot** [comment]
I agree about subpolynomial certainly.

The Foo-linear terminology seems like a mess in the literature!

Here's a source for "quasilinear" meaning O(n * log^k(n)): https://en.wikipedia.org/wiki/Time_complexity#Quasilinear_time
The other first two results I find for "quasilinear" agree as well, https://link.springer.com/chapter/10.1007/3-540-57785-8_134 and https://cse.buffalo.edu/~regan/papers/pdf/NRS95.pdf

I'm not sure about nearly_linear and almost_linear being particularly standard. When I google them, the first results I get are
https://arxiv.org/abs/2011.05365
https://arxiv.org/abs/1304.2338
which use (respectively) use the words "nearly-linear time" and "almost-linear-time" to refer to the same O(n ^ {1 + o(1)}) behavior. https://arxiv.org/abs/2407.10830 uses "almost-linear time" this way as well.

https://cstheory.stackexchange.com/questions/39584/examples-of-quasilinear-vs-essentially-linear-time-translatable-models uses quasilinear to mean O(n * log^k(n)), and "essentially linear" to mean O(n ^ {1 + o(1)}).
https://www.sciencedirect.com/science/article/pii/S0196677404000732 and https://cr.yp.to/papers/powers-ams.pdf seem to also use "essentially linear" for this as well.

https://cstheory.stackexchange.com/a/36697 suggests O(n ^ (1 + epsilon)) -- or more precisely, the intersection of these for all epsilon > 0 -- to mean "near-linear", but doesn't seem to cite any literature uses of this form.

It's worth noting that "quasilinear" has an unrelated meaning coming from convex analysis, and this notion is actually [in Mathlib](leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Quasiconvex.html). It has a separate meaning in economics as well (a function in two variables which is linear in one variable but not the other).

I tried looking up "pseudolinear" to see if that was a thing, it seems not to be.

**Based on this**, it seems like `quasilinear = O(n * log^k(n))` is quite standard for a growth rate, and we should keep that. All of "nearly linear", "almost linear", and "essentially linear" seem to typically imply O(n ^ {1 + o(1)}). I think using any of those three terms listed would be fine and I couldn't find a clear winner. I couldn't find any standard term for O(n * alpha(n)) or O(n ^ (1 + epsilon). I'm not convinced we need one for the former (I want to add a `Mul` instance on GrowthRate that makes it mostly easy), and for the latter maybe I would suggest "inf_linear"?

**Comment by Timeroot** [comment]
For now, I'll look at adding GrowthRate.inverseAckermann and GrowthRate.iteratedLog, and I'll write some `Add` and `Mul` instances to show how that can work.

I'll start on splitting the files.

**Comment by sorrachai** [comment]
The term "nearly linear" vs. "almost linear" has been standard for the last 10 years (you can check any algorithm conference from the past 10 years, and you will find this term with high probability). In your reference, $\tilde O(n)$ refers to nearly linear time. In your referred [paper](https://arxiv.org/abs/2011.05365), they use tilde to omit the polylogs factor, whereas they list the subpolynomial factor explicitly in $\tilde O(n^{1+o(1)})$ which refers to almost linear time.  If you look closely at that paper, they define the tilde notation to hide nearly linear time. You don't see quasi-linear terms in recent algorithm papers anymore (in the last 10 years). 

Screenshot 2026-05-28 at 20 31 10

You can sample a few more if you want to get the most robust statistics.

**Comment by Timeroot** [comment]
Now I'm confused. Surely \tilde{O}(n ^{1 + o(1)}) is the same as O(n^{1 + o(1)}), and would be (under your definition) "almost-linear time", and not "nearly-linear time"? And the title of the paper is "nearly-linear time", and their main result is that the algorithm runs in time \tilde{O}(n ^{1 + o(1)}).

I liked your suggestion of just looking directly at recent conferences. (I wasn't aware that this might be a recent, 10-year shift in terminology, so especially thanks for that tip!) I took a quick survey of papers accepted to STOC 2025 with some variant of 'linear' in their title or abstract, to get statistics:
 * ["Near-linear" to mean O(n * log^k(n))](https://arxiv.org/pdf/2412.12558)
 * ["Near-linear" to mean O(n * log(n))](https://arxiv.org/pdf/2410.05240)
 * ["Quasi-linear" to mean O(n * log^k(n))](https://arxiv.org/pdf/2407.12762)
 * ["Barely superlinear" to mean O(n ^ {1 + 3^{-d}})](https://arxiv.org/pdf/2410.06499), where d is another parameter that we should treat as roughly constant (independent of n)
 * ["Almost-linear" to mean O(n ^ {1 + o(1)})](https://arxiv.org/pdf/2503.23526)
 * ["Sublinear" to mean linear in the number of vertices](https://arxiv.org/pdf/2503.20883), as opposed to the number of edges.
 
FOCS 2025:
* ["Nearly-linear" to mean \tilde{O}(m)](https://arxiv.org/abs/2510.17740)
* ["Almost-linear" to mean m^{1 + o(1)}](https://arxiv.org/abs/2507.20354)
* ["Sublinear" to mean linear in vertices, not edges](https://arxiv.org/pdf/2512.18416)
* ["Sublinear" to mean o(n), here sqrt(n)](https://arxiv.org/abs/2510.06798)
* ["Near-linear" to mean \tilde{O}(n)](https://arxiv.org/pdf/2504.20333)

I guess that seems pretty compelling. :) 

So I'll change `quasilinear` to `nearLinear`, and add `almostLinear`. I'm using the underscore-free version of the name because these are `def`s (Sets of functions) and I want to follow that convention.

**Comment by Timeroot** [comment]
@sorrachai Anything else you need from me?

**Comment by crei** [comment]
In one of my next PRs related to Turing machines, I would like to define some basic complexity classes and prove relationships between them (Logspace in P for example), and I was wondering if the contents of this PR would help me there.

For example, I have an expression of the following form (where `s k : Nat`)

```lean
(Fintype.card State + 1) * ((2 * s + 1) ^ k * (Fintype.card Symbol + 1) ^ (2 * s + k))
```

and I want to show that it is in `2^O(s)`. This requires some arguments about `x < 2^x` and also `2 * s + 1 ≤ 2 ^ (s + 1)` and after that I have some horrible `calc`s.

A "latex proof" would be much shorter (I think) and especially would just 'absorb' constants.

I see that most of your proofs are also rather manual, so I don't think this PR would help me in this particular case (please correct me if I'm wrong).

So this comment goes a bit beyond the scope of this PR, but maybe (and taking into account that Cslib is a library that helps with cs and in particular the analysis of the runtime of algorithms) we should put a bit more focus on making such proofs easier, potentially with a custom tactic?

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,658 @@
...
+  intro n hn
+  rw [abs_of_nonneg, abs_of_nonneg]
+  · nlinarith [h₁ n (le_trans (le_max_left _ _) hn), h₂ n (le_trans (le_max_right _ _) hn),
+      le_max_left c₁ c₂, le_max_right c₁ c₂, Nat.zero_le (a n), Nat.zero_le (b n)]
+  · nlinarith [Nat.zero_le (a n), Nat.zero_le (b n)]
+  · nlinarith [Nat.zero_le (f n), Nat.zero_le (g n)]
+
+end GrowthRate
+
+/-- We call a `GrowthRate` *lawful* if it is closed under dominating sequences, addition, and
```
Comment (crei) [inline Cslib/Algorithms/GrowthRate/Defs.lean:184]: Do you have a reference for this definition? It sounds a little bit arbitrary to me. I have the feeling that working with sets of functions might be more complicated than it needs to be, especially since it prevents you from proving properties of two functions relative to each other.

As an experiment, I built some kind of "landau calculus" with the help of AI here: https://github.com/crei/cslib/commit/40d5b7297998db7604c78c20106aaa2fdfebe73a

The core objects are functions that are 1) monotone and 2) nonzero.

These two properties make it a commutative monoid with respect to multiplication.

On top of that, you can define a preorder:  `f ≤ g := ∃ c, ∀ n, f n ≤ c * g n`, which captures `f ∈ O(g)`.

Since they are all nonzero, you do not need an additive constant or an "eventual" statement.
The preorder is "nice enough" so that it almost an `OrderedMonoid`, not sure what is missing, though.

If you don't know if your function is monotone, there are still many "calculus rules" you can prove for the monotone envelope of any function.

**Comment by sorrachai** [comment]
> @sorrachai Anything else you need from me?

I have assigned a reviewer ([olivier-fischer](https://github.com/olivier-fischer)) for this PR. It may take some time since the PR is quite fundamental.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,658 @@
...
+
+This file collects about common "growth rates" that show up in complexity theory. While
+`IsBigO` expresses growth rate up to a multiplicative constant, there are other important
+classes not directly expressible as `IsBigO`. In rough order of literature frequency:
+ * `GrowthRate.poly`: Polynomial growth, typically written `poly(n)` or `n ^ O(1)`.
+ * `GrowthRate.polylog`: `(log n)^k`, that is, a polynomial in the logarithm.
+ * `GrowthRate.exp`: Exponential growth with any rate, often written `exp(O(n))`
+ * `GrowthRate.sublinear`: Sublinear growth, typically written `o(n)`.
+ * `GrowthRate.nearLinear`: Near-linear growth as `O(n * (log n)^k)`
+ * `GrowthRate.almostLinear`: Almost-linear growth as `O(n ^ {1 + ε})` for every `ε > 0`.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: In my experience, this is typically written as `O(n ^ (1 + o(1)))`; maybe you can add that as a comment.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,658 @@
...
+
+-/
+
+@[expose] public section
+
+namespace CSLib
+
+open scoped Topology
+
+/-- A **Growth rate** is just any collection of `ℕ → ℕ`, but as a type alias intended for
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: A useful extension, perhaps outside the scope of this PR, would be to support nonnegative real-valued growth rates ℕ → ℝ≥0. Restricting to ℕ → ℕ seems natural for running time bounds, but it cannot express vanishing rates such as 1 / log n, which occur for example in expander decomposition guarantees.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,658 @@
...
+  rw [abs_of_nonneg, abs_of_nonneg]
+  · nlinarith [h₁ n (le_trans (le_max_left _ _) hn), h₂ n (le_trans (le_max_right _ _) hn),
+      le_max_left c₁ c₂, le_max_right c₁ c₂, Nat.zero_le (a n), Nat.zero_le (b n)]
+  · nlinarith [Nat.zero_le (a n), Nat.zero_le (b n)]
+  · nlinarith [Nat.zero_le (f n), Nat.zero_le (g n)]
+
+end GrowthRate
+
+/-- We call a `GrowthRate` *lawful* if it is closed under dominating sequences, addition, and
+composition with a sublinear function; and is nontrivial (it contains at least one function besides
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: In that case, does a function that is 1 in the first k numbers and then 0 count as trivial? If this is extended to functions ℕ → ℝ≥0, the one_mem condition will have to be replaced, because nonzero does not imply constant in that setting.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,658 @@
...
+namespace CSLib
+
+open scoped Topology
+
+/-- A **Growth rate** is just any collection of `ℕ → ℕ`, but as a type alias intended for
+discussing how quickly certain classes functions grow, as is often needed in asymptotic runtime
+or memory analysis in computational complexity theory. A `LawfulGrowthRate` instance puts
+constraints on this set behaving well in various ways.
+-/
+abbrev GrowthRate := Set (ℕ → ℕ)
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: Is the use of `abbrev` intentional here? Since `GrowthRate` is eagerly identified with `Set (ℕ → ℕ)`, the custom operations are applied to any terms explicitly typed as `Set (ℕ → ℕ)`, not just `GrowthRate`. 

For example, let `A = B = {1} : Set (ℕ → ℕ)`. Mathlib’s pointwise set addition gives `A + B = {2}`, so `0 ∉ A + B`. With the instance in this file, however, `A + B` is the downward closure of `{2}`, and hence `0 ∈ A + B`. This instance continues to win even after opening the `Pointwise` scope; I will attach a small reproducer below.

Would it be safer to make this a distinct type, for example with `def GrowthRate := Set (ℕ → ℕ)`? This would require some additional code, but it would keep the custom `+`, `*`, and `^` operations from changing the behavior of the underlying `Set` type. Alternatively, separate operations could be defined for these downward-closed operations.

Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Defs.lean]: import Mathlib.Algebra.Group.Pointwise.Set.Basic
import Mathlib.Tactic
import Cslib.Algorithms.GrowthRate.Defs


namespace GrowthRateAbbrevMWE

open CSLib

def A : Set (ℕ → ℕ) := {(1 : ℕ → ℕ)}
def B : Set (ℕ → ℕ) := {(1 : ℕ → ℕ), (2 : ℕ → ℕ)}

-- Although `A` and `B` are explicitly ordinary `Set`s, this uses CSLib's
-- downward-closed growth-rate addition. It contains all functions bounded
-- by 1+1 or 1+2, in particular 0.
def growthrate_sum := A + B

theorem growthSum_contains_zero : (0 : ℕ → ℕ) ∈ growthrate_sum := by
  change ∃ f ∈ A, ∃ g ∈ B, (0 : ℕ → ℕ) ≤ f + g
  exact ⟨1, by simp [A], 1, by simp [B], by simp⟩

-- Mathlib's ordinary pointwise sum is the exact image of addition, so zero
-- does not belong to `{1} + {1, 2}`.
def pointwise_sum := Set.image2 (. + .) A B

example : pointwise_sum = {(2 : ℕ → ℕ), (3 : ℕ → ℕ)} := by
  ext f
  simp [pointwise_sum, A, B]
  constructor
  · rintro (rfl | rfl)
    · exact Or.inr rfl
    · exact Or.inl rfl
  · rintro (rfl | rfl)
    · exact Or.inr rfl
    · exact Or.inl rfl

theorem pointwiseSum_does_not_contain_zero :
    (0 : ℕ → ℕ) ∉ pointwise_sum := by
  rintro ⟨f, hf, g, hg, hfg⟩
  simp only [A, Set.mem_singleton_iff] at hf
  subst f
  simp only [B, Set.mem_insert_iff, Set.mem_singleton_iff] at hg
  rcases hg with rfl | rfl
  all_goals
    have := congrFun hfg 0
    norm_num at this

-- Thus the operation selected by `A + B` differs from the ordinary pointwise
-- operation on the same underlying `Set` type.
example : A + B ≠ Set.image2 (· + ·) A B := by
  intro h
  apply pointwiseSum_does_not_contain_zero
  rw [pointwise_sum, ← h]
  exact growthSum_contains_zero

section Pointwise

open scoped Pointwise

-- Even after enabling mathlib's `Pointwise` scope, the global instance
-- introduced for the abbreviation wins for this particular Set type.
example : (0 : ℕ → ℕ) ∈ A + B :=
  growthSum_contains_zero

-- Consequently, a standard pointwise-set lemma cannot rewrite this `+`.
example : (0 : ℕ → ℕ) ∈ A + B := by
  fail_if_success rw [Set.mem_add]
  exact growthSum_contains_zero

end Pointwise

end GrowthRateAbbrevMWE

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,658 @@
...
+    simp only [Pi.mul_apply, Pi.natCast_apply, Nat.cast_id]
+    grw [← hC n, mul_comm]
+  · clear hC
+    induction C <;> simp [zero_mem, add_mul, add, *]
+
+theorem const_mul (hf : f ∈ const) (hg : g ∈ S) : (f * g) ∈ S := by
+  rw [mul_comm]
+  exact mul_const hg hf
+
+/-- If `f` has growth rate `S` and `g` has is `sublinear`, then `f ∘ g` has growth rate `S`.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: typos: has is (this line), is doesn't (next line)

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,658 @@
...
+public import Mathlib.Tactic.Bound
+
+public import Cslib.Foundations.Lint.Basic
+
+/-!
+# Asymptotic Growth Rates
+
+## Named Growth Rates
+
+This file collects about common "growth rates" that show up in complexity theory. While
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: I think "collects about" is not grammatically correct

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,658 @@
...
+
+/-- The `GrowthRate` corresponding to `O(f)` in Landau notation. -/
+def bigO (g : ℕ → ℕ) : GrowthRate :=
+  setOf <| fun f ↦ (f · : ℕ → ℤ) =O[.atTop] (g · : ℕ → ℤ)
+
+/-- The `GrowthRate` corresponding to `o(f)` in Landau notation. -/
+def littleO (g : ℕ → ℕ) : GrowthRate :=
+  setOf <| fun f ↦ (f · : ℕ → ℤ) =o[.atTop] (g · : ℕ → ℤ)
+
+--Most named growth rates are defined in `Cslib.Algorithms.GrowthRate.Named.lean`, but these
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: I think it should be Special.lean

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,658 @@
...
+-/
+
+@[expose] public section
+
+namespace CSLib
+
+open scoped Topology
+
+/-- A **Growth rate** is just any collection of `ℕ → ℕ`, but as a type alias intended for
+discussing how quickly certain classes functions grow, as is often needed in asymptotic runtime
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: classes functions -> classes of functions

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,658 @@
+/-
+Copyright (c) 2025 Alex Meiburg. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Alex Meiburg
+-/
+
+module
+
+public import Mathlib.Analysis.Asymptotics.Defs
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: Are all of these imports direct dependencies of Defs.lean? Several imports (e.g. Ackermann, real logarithms/powers, exponential bounds) appear to be used only in Special.lean, Order.lean, or Closure.lean, which currently obtain them transitively by importing Defs.lean. Would it be cleaner for each file to import its own dependencies and keep Defs.lean minimal?

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,658 @@
...
+
+This last condition is equivalent to containing the constant function 1; or, containing any
+two distinct functions. These conditions are enough to get most desirable properties. For instance,
+all big-O and little-O rates are lawful, as is `poly`. -/
+class LawfulGrowthRate (S : GrowthRate) : Prop where
+  /-- If a function `f` is in S and it dominates `g` (is eventually no less), then `g ∈ S`. -/
+  mem_dominating {f g : ℕ → ℕ} : (∀ᶠ x in .atTop, g x ≤ f x) → (f ∈ S) → g ∈ S
+  /-- S is closed under addition. -/
+  mem_add {f g : ℕ → ℕ} : (f ∈ S) → (g ∈ S) → (f + g ∈ S)
+  /-- If a function `f` is in S and `g` is sublinear, then `f ∘ g ∈ S`. -/
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: "sublinear" suggests `g \in o(n)`, but the assumption in the code is "g(n) is bounded by n"; later the term "sub-identity" is also used

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,658 @@
...
+
+/-- LawfulGrowthRate is closed under linear transformations. -/
+lemma affine_comp {f : ℕ → ℕ} {a b : ℕ} (hf : f ∈ S) :
+    (fun n ↦ a * f n + b) ∈ S :=
+  add (const_mul (const_mem_const a) hf) (const_mem (const_mem_const b))
+
+section instances
+
+/-- We can show that `bigO f` is a `LawfulGrowthRate` if it satisfies two mild conditions:
+f is positive at some point, and it's closed under composition with sub-identity functions. -/
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: "is positive at some point" might sound ambiguous, as we want f to be eventually always positive (not just at one entry)

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,658 @@
...
+
+instance : LawfulGrowthRate const := by
+  apply instLawfulBigO
+  · simp
+  · exact fun k a g a_1 ↦ const_comp a g
+
+end instances
+end lawful
+
+/-! ### Operations on Growth Rates
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: As mentioned above, this currently overrides the pointwise operations for all variables of type `Set (ℕ → ℕ)`.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,658 @@
...
+--We use AddLeftMono and AddRightMono instead of IsOrderedAddMonoid because we don't have an
+-- additive identity.
+
+instance : AddLeftMono GrowthRate where
+  elim _ _ _ := gadd_mono_right
+
+instance : AddRightMono GrowthRate :=
+  addRightMono_of_addLeftMono _
+
+theorem add_congr (hf : f ∈ A) (hg : g ∈ B) : f + g ∈ A + B :=
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: Would `add_mem_add`, `mul_mem_mul`, and `pow_mem_pow` be more consistent with the existing pointwise-set naming convention? (see e.g. https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Pointwise/Set/Basic.html#Set.add_mem_add) These results construct membership in the result from membership in the operands, whereas `*_congr` is normally used for statements saying that an operation respects equality or another relation.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,658 @@
...
+
+end GrowthRate
+
+/-- We call a `GrowthRate` *lawful* if it is closed under dominating sequences, addition, and
+composition with a sublinear function; and is nontrivial (it contains at least one function besides
+zero).
+
+This last condition is equivalent to containing the constant function 1; or, containing any
+two distinct functions. These conditions are enough to get most desirable properties. For instance,
+all big-O and little-O rates are lawful, as is `poly`. -/
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: The definitions instLawfulBigO (line 318) and instLawfulLittleO (line 341) have some mild preconditions, so not all big-O and little-o rates are lawful, e.g. `O(0)` and `o(1)` would not be lawful.

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 16]
```diff
@@ -0,0 +1,658 @@
...
+public import Mathlib.Tactic.IntervalCases
+public import Mathlib.Tactic.Peel
+public import Mathlib.Tactic.Bound
+
+public import Cslib.Foundations.Lint.Basic
+
+/-!
+# Asymptotic Growth Rates
+
+## Named Growth Rates
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: Some of the top-level comments here might be more suited to other files, e.g. there is also a subsection "Named Growth Rates" in `Special.lean`.

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 17]
```diff
@@ -0,0 +1,1307 @@
...
+
+/-!
+# Named Growth Rates
+
+Defining the rate classes, sorted in order of growing more quickly.
+
+```
+const       := bigO 1
+log         := bigO (Nat.log 2)
+polylog     := setOf ...
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: For some of the classes, e.g. polylog, nearLinear, almostLinear, poly, quasipoly, I just see `setOf ...` rather than an expression like for the others

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 18]
```diff
@@ -0,0 +1,1307 @@
...
+twoPow     := bigO (2 ^ ·)
+ePow       := bigO (⌈Real.exp ·⌉₊)
+exp         := setOf ...
+primitiveRecursive := setOf ...
+computable := setOf ...
+```
+
+Each of these has a `LawfulGrowthRate` instance, showing that they're reasonably well-behaved.
+Several have important alternate characterizations in terms of different functions. For instance,
+`GrowthRate.polylog` is defined as `∃ (C : ℤ), O(n * Nat.log 2 n ^ C)`. The theorem
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: The factor `n` should not be there for polylog (this line and next). Also, in the definition, C is a natural number rather than an integer.

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 19]
```diff
@@ -0,0 +1,1307 @@
...
+variable {f g a b : ℕ → ℕ}
+
+section defs
+
+/-- Logarithmic growth rates: `O(log n)` -/
+abbrev log := bigO (Nat.log 2)
+
+/-- Polylogarithmic growth rates: `(log n) ^ O(1)` -/
+def polylog : GrowthRate :=
+  setOf <| fun f ↦ ∃ C,
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: The code might be easier to follow if C (and similar variables in the other definitions) is explicitly typed, like in the exp definition later.

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 20]
```diff
@@ -0,0 +1,1307 @@
...
+  refine ⟨C ⊔ M + 1, Filter.eventually_atTop.mpr ⟨a + 1, fun x hx ↦ ?_⟩⟩
+  norm_cast
+  simp_all only [Order.add_one_le_iff, Function.comp_apply, norm_natCast]
+  rcases lt_or_ge (g x) a with hgx | hgx
+  · grw [hM _ hgx, ← le_max_right, ← Nat.le_log_of_pow_le one_lt_two (by linarith : 2 ^ 1 ≤ x)]
+    simp
+  · grw [ha _ hgx, ← le_max_left, hg x, add_mul]
+    simp
+
+lemma polylog_mem_dominating {f g : ℕ → ℕ} (h : ∀ᶠ x in .atTop, g x ≤ f x)
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: The proof of this lemma looks exactly the same as the proof starting on line 161. Maybe it can be merged or omitted

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 21]
```diff
@@ -0,0 +1,1307 @@
...
+If a monotone function `h : ℕ → ℕ` is not the zero function, then it is eventually at least 1.
+-/
+lemma monotone_nat_eventually_pos {h : ℕ → ℕ} (h_mono : Monotone h) (h_not_zero : h ≠ 0) :
+    ∀ᶠ n in .atTop, 1 ≤ h n := by
+  rw [Filter.eventually_atTop]
+  refine (Function.ne_iff.mp h_not_zero).imp fun n hn m hm ↦ ?_
+  specialize h_mono hm
+  exact Nat.pos_of_ne_zero fun hnm ↦ hn <| by aesop
+
+lemma bigO_comp_le_id_of_pos {f g h : ℕ → ℕ} (h_mono : Monotone h) (h_pos : ∀ n, 1 ≤ h n)
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: This lemma seems to be the same lemma as `bigO_comp_le_id` (line 879), maybe their logic should be merged

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 22]
```diff
@@ -0,0 +1,1307 @@
...
+        norm_natCast]
+      refine ⟨∑ n ∈ .range N, (f n : ℝ), Filter.eventually_atTop.mpr ⟨N, fun n hn ↦ ?_⟩⟩
+      by_cases h : g n < N
+      · simp only [Set.mem_setOf_eq]
+        exact_mod_cast Finset.single_le_sum (fun a _ ↦ Nat.cast_nonneg _) (Finset.mem_range.mpr h)
+      · simp_all only [nonpos_iff_eq_zero, one_ne_zero, not_false_eq_true, not_lt,
+          CharP.cast_eq_zero, Set.mem_setOf_eq]
+        positivity
+
+section runningMax
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: Could it make sense to move the sections `runningMax` and `lawfulInstances` to a separate file?

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 23]
```diff
@@ -0,0 +1,1307 @@
...
+        use 1, 0
+        intro n hn
+        erw [Real.norm_of_nonneg] <;> norm_cast <;> linarith
+    exact ⟨H', hH'_primrec, h_comp⟩
+
+/--
+For every computable function `f`, there exists a computable monotone function `g` such
+that `f ≤ g`.
+-/
+lemma exists_monotone_computable_bound' {f : ℕ → ℕ} (hf : Computable f) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: Is the prime at the end of the lemma name intentional?

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 24]
```diff
@@ -0,0 +1,1307 @@
...
+      grw [h_log2_ge x hx]
+      norm_cast
+      linarith [Nat.le_log_of_pow_le (x := 1) one_lt_two hx]
+    convert h_log2_nat using 1
+    simp [bigO]
+    norm_num [Asymptotics.isBigO_iff]
+
+theorem polylog_iff_rlog {f : ℕ → ℕ} : f ∈ polylog ↔
+    ∃ C, (f · : ℕ → ℝ) =O[.atTop] (fun n ↦ (Real.log n) ^ C : ℕ → ℝ) := by
+  -- To prove the equivalence, we can use the fact that ℤ and ℝ are isomorphic in this context.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: I am not sure about the term isomorphic in this context. What is true is that casting nonnegative integers to real numbers preserves the relevant big-O relationship.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 25]
```diff
@@ -0,0 +1,843 @@
+/-
+Copyright (c) 2026 Alex Meiburg. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Alex Meiburg
+-/
+
+module
+
+public import Cslib.Algorithms.GrowthRate.Closure
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: Is Closure needed or is Special enough to import?

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 26]
```diff
@@ -0,0 +1,843 @@
...
+
+/-!
+# Ordering of Growth Rates
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This file looks good to me. It would be nice to add a comment here what the file does, i.e. prove the chain `const ⊂ polylog ⊂ sqrt ⊂ ...`

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 27]
```diff
@@ -0,0 +1,1894 @@
...
+      simp only [Asymptotics.IsBigOWith, norm_natCast, Filter.eventually_atTop] at hC₂ ⊢
+      refine ⟨⌈C⌉₊, hC₂.choose, fun n hn ↦ ?_⟩
+      rw [mul_assoc]
+      exact_mod_cast (hC₂.choose_spec n hn).trans
+        (mul_le_mul_of_nonneg_right (Nat.le_ceil _) (by positivity))
+    refine ⟨fun n => C * n + ∑ i ∈ Finset.range (N + 1), f i + 1, ?_,
+            fun n => Nat.log 2 n + 1, ?_, ?_⟩
+    · simp only [linear, bigO, id_eq, Asymptotics.isBigO_iff, norm_natCast,
+        Filter.eventually_atTop, ge_iff_le, Set.mem_setOf_eq, Nat.cast_add, Nat.cast_mul,
+        Nat.cast_sum, Nat.cast_one] ;
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: linter error: space before semicolon

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 28]
```diff
@@ -0,0 +1,1894 @@
...
+        apply pow_le_pow_right₀ (by norm_num)
+        rw [mul_comm]
+        exact Nat.mul_le_mul
+          (hn.trans (Nat.pow_le_pow_right (Nat.log_pos one_lt_two hn') (Nat.le_succ _))) le_rfl
+      obtain ⟨ C', hC' ⟩ := h_exp;
+      use C' + 1;
+      filter_upwards [ hC', Filter.eventually_gt_atTop ( 2 ^ ( Nat.log 2 D + 1 ) ) ] with n hn hn';
+      refine le_trans hn ?_;
+      gcongr <;> norm_num;
+      rw [ pow_succ ] ; gcongr;
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: linter error: space before semicolon

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 29]
```diff
@@ -0,0 +1,843 @@
...
+    nlinarith [(by norm_cast : (1 : ℝ) < n)]
+
+theorem almostLinear_subset_poly : almostLinear ⊆ poly := by
+  intro f hf
+  use 2
+  have := hf 1 zero_lt_one
+  convert this using 1; norm_cast
+  norm_num [Asymptotics.isBigO_iff]
+
+attribute [refl] Asymptotics.isBigO_refl
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: Is this global `refl` attribute intentional? This changes `rfl` behavior in every downstream module importing `Order`, and it can also affect tactics such as `congr!`. The uses below in this file appear explicit, so could the attribute be removed or made local? If we want this behavior everywhere, perhaps it should be part of the general asymptotics definitions.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 30]
```diff
@@ -0,0 +1,843 @@
...
+    have h := FloorSemiring.tendsto_pow_div_factorial_atTop (c : ℝ)
+    simpa [mul_div_assoc] using h.const_mul y
+  have ⟨w, h⟩ := Filter.eventually_atTop.mp <| hf_growth.eventually (gt_mem_nhds zero_lt_one)
+  refine ⟨_, le_max_left z w, ?_⟩
+  specialize h _ (le_max_right z w)
+  rw [div_lt_one (by positivity)] at h
+  simpa using h
+
+--PR'ed in https://github.com/leanprover-community/mathlib4/pull/33864
+/-- The factorial function is primitve recursive. -/
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: typo: primitve -> primitive

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 31]
```diff
@@ -0,0 +1,843 @@
...
+  have hf_growth : Filter.Tendsto (fun n ↦ (y * (c ^ n) : ℝ) / n.factorial) .atTop (𝓝 0) := by
+    have h := FloorSemiring.tendsto_pow_div_factorial_atTop (c : ℝ)
+    simpa [mul_div_assoc] using h.const_mul y
+  have ⟨w, h⟩ := Filter.eventually_atTop.mp <| hf_growth.eventually (gt_mem_nhds zero_lt_one)
+  refine ⟨_, le_max_left z w, ?_⟩
+  specialize h _ (le_max_right z w)
+  rw [div_lt_one (by positivity)] at h
+  simpa using h
+
+--PR'ed in https://github.com/leanprover-community/mathlib4/pull/33864
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: Is this intended to be part of the public API? Since it uses _root_, importing this growth-rate file adds Primrec.factorial directly to that namespace. This could cause a name collision if Mathlib later adds the same result. As Primrec.factorial is already proposed upstream, could this theorem be kept private for now and replaced by the Mathlib theorem when that PR is merged?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 32]
```diff
@@ -0,0 +1,1894 @@
...
+    have ⟨N, hN⟩ := Filter.eventually_atTop.mp hK
+    refine ⟨1, N, fun n hn ↦ ?_⟩
+    rw [abs_of_nonneg (by norm_cast; linarith)]
+    exact (pow_le_pow_right₀ (by norm_cast; linarith) (hN n hn)).trans (by norm_num)
+  have h_comp : (fun n ↦ (f (g n) : ℤ)) =O[.atTop] (fun n ↦ (C^K) ^ n : ℕ → ℤ) := by
+    simpa only [pow_mul] using hfg.trans h_mono
+  use C.natAbs^K
+  simpa [abs_of_nonneg (by linarith : 0 ≤ C)] using h_comp
+
+lemma _root_.Nat.Primrec.sum_range (hf : Nat.Primrec f) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Similar to Primrec.factorial (Order.lean, line 784): Is this intended to be public? It seems to be used only by the proof just below, but _root_ adds it directly to the Nat.Primrec namespace for every importer. Could it be kept private or moved to a more general computability file if it is meant to be reused?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 33]
```diff
@@ -0,0 +1,1894 @@
...
+  refine ⟨a + 2, fun n hn ↦ ?_⟩
+  norm_cast
+  nlinarith [ha n (by linarith), Nat.log_pos one_lt_two (by linarith : 1 < n)]
+
+/-- If g is linear, then g(n) * Nat.log(g(n)) is linearithmic. -/
+private lemma linear_mul_log_comp_linear {g : ℕ → ℕ} (hg : g ∈ linear) :
+    (fun n ↦ g n * Nat.log 2 (g n)) ∈ linearithmic := by
+  exact linearithmic_of_linear_mul hg (log_comp_linear hg)
+
+theorem linearithmic_comp (hf : f ∈ linearithmic) (hg : g ∈ linear) : f ∘ g ∈ linearithmic := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: maybe `linearithmic_comp_linear` is a better suited name and more in line with the other names, e.g. `sublinear_comp_linear`

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 34]
```diff
@@ -0,0 +1,1894 @@
...
+    norm_cast
+    specialize hE n
+    specialize hfg n
+    specialize hK n
+    dsimp only at hfg
+    grw [hfg, Nat.pow_le_pow_left (show f n ≤ (C + K + 1) * n by nlinarith) _, mul_pow]
+    apply Nat.mul_le_mul <;> exact pow_le_pow_right₀ (by lia) (by lia)
+
+@[simp]
+theorem exp_eq_const_pow_exp : const ^ linear = exp := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: the name of the theorem suggests the switched order of the terms in the equality, i.e. `exp = const ^ linear`, in the same way as `poly_eq_linear_pow_const`

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 35]
```diff
@@ -0,0 +1,1894 @@
...
+  simp only [Function.comp_apply, norm_natCast, Nat.cast_add, Nat.cast_mul, one_mul,
+    Filter.eventually_atTop]
+  refine ⟨N_g, fun n hn ↦ ?_⟩
+  grw [h_comp_bound n hn]
+  convert le_refl _
+  exact Real.norm_of_nonneg (by positivity)
+
+section computable
+
+/-- `max_scan f n` computes the maximum value of `f` on `0..n`. -/
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This function seems to do the same thing as `runningMax` in `Special.lean`. Could we reuse that here and share the domination, monotonicity and computability lemmas?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 36]
```diff
@@ -0,0 +1,1894 @@
...
+    · simp [*, Finset.sum_range_succ]
+      rfl
+  rw [hS]
+  convert Nat.Primrec.prec1 0 hg using 1
+  simp
+
+/--
+Every primitive recursive function is bounded by a monotone primitive recursive function.
+-/
+private lemma exists_monotone_primrec_bound {f : ℕ → ℕ} (hf : Nat.Primrec f) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This looks very close to `Primrec.exists_monotone_dominating` in `Special.lean`. The difference seems to be that this theorem gives a pointwise bound while the other one only gives a big-O bound, although runningMax_le already provides pointwise domination. Could the other result be strengthened (to pointwise domination) and reused here?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 37]
```diff
@@ -0,0 +1,1894 @@
...
+  simp only [bigO, Nat.cast_add, Nat.cast_one, Asymptotics.isBigO_iff, norm_natCast,
+    Filter.eventually_atTop, Set.mem_setOf_eq]
+  use C + K + 1, 0
+  refine fun n hn ↦ ?_
+  erw [Real.norm_of_nonneg (by positivity)]
+  norm_cast
+  nlinarith [h n]
+
+lemma exists_monotone_computable_bound {f : ℕ → ℕ} (hf : Computable f) :
+    ∃ F, Computable F ∧ Monotone F ∧ f ∈ bigO F := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: I think this lemma can reuse `exists_monotone_computable_bound'` (maybe remove the prime in that name and use it for this lemma, if needed) from `Special.lean`? That result gives pointwise domination, which is stronger than the big-O bound here

File: Cslib/Algorithms/GrowthRate/Defs.lean [hunk 38]
```diff
@@ -0,0 +1,658 @@
...
+`IsBigO` expresses growth rate up to a multiplicative constant, there are other important
+classes not directly expressible as `IsBigO`. In rough order of literature frequency:
+ * `GrowthRate.poly`: Polynomial growth, typically written `poly(n)` or `n ^ O(1)`.
+ * `GrowthRate.polylog`: `(log n)^k`, that is, a polynomial in the logarithm.
+ * `GrowthRate.exp`: Exponential growth with any rate, often written `exp(O(n))`
+ * `GrowthRate.sublinear`: Sublinear growth, typically written `o(n)`.
+ * `GrowthRate.nearLinear`: Near-linear growth as `O(n * (log n)^k)`
+ * `GrowthRate.almostLinear`: Almost-linear growth as `O(n ^ {1 + ε})` for every `ε > 0`.
+ * `GrowthRate.quasipoly`: Growth as `O(2 ^ (log n)^k)`
+ * `GrowthRate.primitiveRecursive`: Growth as a primitive recursive function.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Defs.lean]: Maybe “Growth bounded by some primitive-recursive / computable function” would be clearer here. A member does not have to be primitive recursive or computable itself, as the Halting Problem examples in lines 109-11 and 119-121 in `Special.lean:109–111` show

File: Cslib/Algorithms/GrowthRate/Special.lean [hunk 39]
```diff
@@ -0,0 +1,1307 @@
...
+  setOf <| fun f ↦ ∃ C,
+    (f · : ℕ → ℤ) =O[.atTop] (fun n ↦ 2 ^ (Nat.log 2 n ^ C) : ℕ → ℤ)
+
+/-- `O(2 ^ n)` growth rates, not to be confused with `exp` which is `2 ^ O(n)`. -/
+abbrev twoPow := bigO (2 ^ ·)
+
+/-- `O(e ^ n)` growth rates, not to be confused with `exp` which is `e ^ O(n)`. -/
+abbrev ePow := bigO (⌈Real.exp ·⌉₊)
+
+/-- Exponential growth rates: `O(1) ^ n`, or equivalently `2 ^ O(n)`. Corresponds to the
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Special.lean]: Maybe “corresponds” could be made more explicit, e.g. “These are the time bounds used in the definition of the complexity class `E`”, since `E` itself is a class of decision problems rather than functions.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 40]
```diff
@@ -0,0 +1,843 @@
...
+  norm_num [Filter.IsBoundedUnder, Filter.IsBounded]
+  intro x n
+  rcases exists_nat_gt x with ⟨k, hk⟩
+  refine ⟨2 ^ (n + k + 1), ?_, ?_⟩
+  · linarith [(n + k + 1).lt_two_pow_self]
+  · rw [Nat.log_pow (by norm_num)]
+    push_cast
+    linarith
+
+theorem log_ssubset_polylog : log ⊂ polylog := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: To make the file consistent (i.e. all pairs have a subset and strict subset theorem), it might make sense to also have a theorem `log_ssubset_polylog : log ⊆ polylog`

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 41]
```diff
@@ -0,0 +1,843 @@
...
+      refine Filter.tendsto_atTop_add_const_right _ _ <| tendsto_natCast_atTop_atTop.comp ?_
+      rw [Filter.tendsto_atTop_atTop]
+      exact (⟨2 ^ ·, fun _ ↦ Nat.le_log_of_pow_le one_lt_two⟩)
+    obtain ⟨N, hN⟩ := Filter.eventually_atTop.mp (h_log_growth.eventually_gt_atTop 0)
+    use x₁ + N + 1, by linarith
+    have _ : (Nat.sqrt (x₁ + N + 1) : ℝ) ≥ 1 := mod_cast Nat.sqrt_pos.mpr (by linarith)
+    specialize hN (x₁ + N + 1) (by linarith)
+    nlinarith
+
+theorem sublinear_ssubset_linear : sublinear ⊂ linear := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: As for log/polylog, it might make sense to also have a theorem `sublinear ⊆ linear` for consistency

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 42]
```diff
@@ -0,0 +1,843 @@
...
+      rw [← Real.log_lt_log_iff (by positivity) (by positivity),
+        Real.log_mul (by positivity) (by positivity), Real.log_pow, Real.log_pow]
+      norm_num
+      linarith
+    · positivity
+  specialize ha (2 ^ m) (hm.1.le.trans m.lt_two_pow_self.le)
+  norm_num [Norm.norm] at ha
+  order
+
+lemma polylog_is_littleO_sqrt {f : ℕ → ℕ} (hf : f ∈ polylog) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: Is this lemma intended to be part of the public API? I could not find any uses, and it seems to reprove the main estimate from `polylog_subset_sqrt` and `polylog_ssubset_sqrt`. Since this file otherwise mostly follows the chain of subset relations, could this lemma either be moved earlier and used to derive those two subset results or be removed if it is not needed?

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 43]
```diff
@@ -0,0 +1,843 @@
...
+  use polylog_subset_sqrt
+  simp only [polylog, sqrt, bigO, Set.setOf_subset_setOf]
+  push Not
+  use Nat.sqrt, Asymptotics.isBigO_refl ..
+  intro C
+  refine Asymptotics.IsLittleO.not_isBigO ?_ (Filter.frequently_atTop.mpr (⟨· + 2, by simp⟩))
+  rw [Asymptotics.isLittleO_iff]
+  intro c a
+  simp only [Nat.cast_pow, norm_pow, norm_natCast, Filter.eventually_atTop]
+  have h_log_growth : Filter.Tendsto (fun n : ℕ ↦ (Nat.log 2 n : ℝ) ^ C / √n) .atTop (𝓝 0) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This seems to prove the same limit as `h_bound` in the previous theorem, and the `h_log` argument in `quasipoly_subset_twoPow` is very similar. Could this be factored out into a lemma saying that any (constant) power of `log n` is `o(n^a)` for `a > 0`? Mathlib already has the corresponding result for `Real.log`, [`isLittleO_log_rpow_rpow_atTop`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.html#isLittleO_log_rpow_rpow_atTop), so perhaps we only need to handle the conversion from `Nat.log 2` once and then reuse it in these proofs.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 44]
```diff
@@ -0,0 +1,843 @@
...
+  suffices h_exp :(fun n ↦ 2 ^ (Nat.log 2 n ^ C) : ℕ → ℤ) =O[.atTop] (fun n ↦ 2 ^ n : ℕ → ℤ) by
+    simpa [twoPow, bigO] using hC.trans h_exp
+  suffices h_exp : ∀ᶠ n in .atTop, (Nat.log 2 n ^ C : ℕ) ≤ n by
+    rw [Asymptotics.isBigO_iff]
+    norm_num +zetaDelta at *
+    rcases h_exp with ⟨k, hk⟩
+    refine ⟨1, k, fun n hn ↦ ?_⟩
+    rw [one_mul]
+    exact pow_le_pow_right₀ (by norm_num [Norm.norm]) (hk n hn)
+  have h_log : Filter.atTop.Tendsto (fun n ↦ (Nat.log 2 n : ℝ) ^ C / n) (𝓝 0) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: As said before (see comment on line 124 for theorem `polylog_ssubset_sqrt`), this can be factored out into a separate reusable lemma.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 45]
```diff
@@ -0,0 +1,843 @@
...
+
+theorem sqrt_ssubset_sublinear : sqrt ⊂ sublinear := by
+  use sqrt_subset_sublinear
+  simp only [sqrt, sublinear, bigO]
+  norm_num [littleO]
+  use fun n ↦ Nat.sqrt n * Nat.log 2 n
+  simp only [Nat.cast_mul]
+  constructor
+  · refine Asymptotics.isLittleO_iff.2 fun ε hε ↦ ?_
+    have h_log_div : Filter.Tendsto (fun x : ℕ ↦ (Nat.log 2 x : ℝ) / √x) .atTop (𝓝 0) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This claim would also be captured by a separate lemma that polylogs grow slower than powers

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 46]
```diff
@@ -0,0 +1,843 @@
...
+  rw [Nat.log_pow Nat.one_lt_ofNat]
+  push_cast
+  nlinarith [(by positivity : 0 < (2 : ℝ) ^ (y + n + 1) * (y + n + 1))]
+
+theorem nearLinear_subset_almostLinear : nearLinear ⊆ almostLinear := by
+  intro f hf ε hε
+  obtain ⟨C, hC⟩ := hf
+  have h_log : (fun n => (n : ℝ) * (Real.log n) ^ C) =o[Filter.atTop]
+      (fun n => (n : ℝ) ^ (1 + ε)) := by
+    have h_log : Filter.Tendsto (fun n => (Real.log n) ^ C / (n : ℝ) ^ ε)
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This claim would also be captured by a separate lemma that polylogs grow slower than powers

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 47]
```diff
@@ -0,0 +1,843 @@
...
+      norm_num
+      linarith
+    · positivity
+  specialize ha (2 ^ m) (hm.1.le.trans m.lt_two_pow_self.le)
+  norm_num [Norm.norm] at ha
+  order
+
+lemma polylog_is_littleO_sqrt {f : ℕ → ℕ} (hf : f ∈ polylog) :
+    (fun n ↦ (f n : ℝ)) =o[.atTop] (√·) := by
+  have h_log_poly : ∀ w : ℕ, (fun n ↦ (Nat.log 2 n : ℝ) ^ w) =o[.atTop] (√·) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This claim would also be captured by a separate lemma that polylogs grow slower than powers

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 48]
```diff
@@ -0,0 +1,843 @@
...
+  by_contra h_contra
+  have ⟨C, hC⟩ := h_contra
+  have h_exp : Filter.atTop.Tendsto (fun n ↦ (2 : ℝ) ^ (Nat.log 2 n ^ C) / 2 ^ n) (𝓝 0) := by
+    -- We rewrite `2^((log n)^C) / 2^n = 2^((log n)^C - n)`.
+    suffices h_exp : Filter.atTop.Tendsto (fun n ↦ (2 : ℝ) ^ ((Nat.log 2 n) ^ C - n : ℝ)) (𝓝 0) by
+      convert h_exp using 2
+      norm_num [Real.rpow_sub]
+      norm_cast
+    have h_log : Filter.atTop.Tendsto (fun n ↦ (Nat.log 2 n : ℝ) ^ C - n) Filter.atBot := by
+      have h_log : Filter.atTop.Tendsto (fun n ↦ (Nat.log 2 n : ℝ) ^ C / n) (𝓝 0) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This claim would also be captured by a separate lemma that polylogs grow slower than powers

File: Cslib/Algorithms/GrowthRate/Order.lean (hunk 43 above)
Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Order.lean]: More variants of such a lemma that can be factored out are on the following lines: 193, 302, 539, 586, 628

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 49]
```diff
@@ -0,0 +1,843 @@
...
+f(n) ≤ c * √n eventually.
+-/
+theorem polylog_subset_sqrt : polylog ⊆ sqrt := by
+  intro f hf
+  suffices h : ∃ N, ∀ n ≥ N, (f n : ℝ) ≤ (Nat.sqrt n : ℝ) by
+    obtain ⟨N, hN⟩ := h
+    simp_rw [sqrt, bigO, Set.mem_setOf, Asymptotics.isBigO_iff, Filter.eventually_atTop]
+    exact ⟨1, N, (by simpa using hN · ·)⟩
+  rcases hf with ⟨C, hC⟩
+  have h_bound : Filter.Tendsto (fun n : ℕ ↦ (Nat.log 2 n : ℝ) ^ C / √n) .atTop (𝓝 0) := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: There are multiple occurrences of variants of "polylog divided by a power of n tends to 0", e.g. polylog/sqrt, log/sqrt, polylog/n^ε, namely on lines 72, 124, 193, 304, 539, 586, 628. 

I suggest refactoring this into a separate lemma that can be reused for all instances. Mathlib already has the corresponding result for `Real.log`, [`isLittleO_log_rpow_rpow_atTop`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.html#isLittleO_log_rpow_rpow_atTop), so maybe we only need to handle the conversion from Nat.log 2 once and then reuse it in these proofs.

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 50]
```diff
@@ -0,0 +1,843 @@
...
+    specialize hc b hb
+    rw [le_div_iff₀ (by positivity)]
+    norm_num [Norm.norm] at hc ⊢
+    omega
+  refine absurd ?_ (show ¬1 ≤ c * 0 by norm_num)
+  refine le_of_tendsto_of_tendsto tendsto_const_nhds (h_exp.const_mul c) ?_
+  rw [Filter.EventuallyLE, Filter.eventually_atTop]
+  exact ⟨a, (by simpa [mul_div_assoc] using h_div · ·)⟩
+
+theorem twoPow_subset_ePow : twoPow ⊆ ePow := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: The next four proofs all seem to compare fixed-base exponentials, essentially using `2 < e < 3`. Could they share a small general lemma for comparing `a^n` and `b^n`?

File: Cslib/Algorithms/GrowthRate/Order.lean (hunk 42 above)
Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Order.lean]:
```
lemma polylog_is_littleO_sqrt {f : ℕ → ℕ} (hf : f ∈ polylog) :
    (fun n ↦ (f n : ℝ)) =o[.atTop] (√·) := by
  obtain ⟨C, hC⟩ := polylog_iff_rlog.mp hf
  refine hC.trans_isLittleO ?_
  have h := isLittleO_log_rpow_rpow_atTop (C : ℝ) (by norm_num : 0 < (1/2 : ℝ))
  have h' := h.comp_tendsto tendsto_natCast_atTop_atTop
  simpa [Real.rpow_natCast, Real.sqrt_eq_rpow] using h'
```

Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Order.lean]:
```
theorem polylog_subset_sqrt : polylog ⊆ sqrt := by
  intro f hf
  rw [sqrt_iff_rsqrt]
  exact (polylog_is_littleO_sqrt hf).isBigO
```

Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Order.lean]:
``` 
theorem polylog_ssubset_sqrt : polylog ⊂ sqrt := by
  refine ⟨polylog_subset_sqrt, ?_⟩
  rw [Set.not_subset]
  refine ⟨Nat.sqrt, Asymptotics.isBigO_refl .., ?_⟩
  intro hf
  have hsmall := polylog_is_littleO_sqrt hf
  have hback : (fun n : ℕ ↦ √(n : ℝ)) =O[.atTop]
      (fun n ↦ (Nat.sqrt n : ℝ)) := by
    apply Asymptotics.IsBigO.of_bound 2
    filter_upwards [Filter.eventually_ge_atTop 1] with n hn
    rw [Real.norm_of_nonneg (by positivity),
      Real.norm_of_nonneg (by positivity)]
    have hsqrt_le : √(n : ℝ) ≤ Nat.sqrt n + 1 := Real.sqrt_le_iff.2
      ⟨by positivity, by norm_cast; nlinarith [Nat.lt_succ_sqrt n]⟩
    have hone : (1 : ℝ) ≤ Nat.sqrt n := by
      exact_mod_cast Nat.sqrt_pos.mpr (by omega)
    nlinarith
  exact hback.not_isLittleO (Filter.Eventually.frequently <| by
    filter_upwards [Filter.eventually_ge_atTop 1] with n hn
    positivity) hsmall
```

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 51]
```diff
@@ -0,0 +1,843 @@
...
+  replace h_exp := h_exp.eventually_gt_atTop (x + 1)
+  replace h_exp := (Filter.eventually_ge_atTop n).and h_exp
+  have ⟨m, hm⟩ := Filter.eventually_atTop.mp h_exp
+  specialize hm m le_rfl
+  refine ⟨m, hm.1, ?_⟩
+  have hm₁ := hm.2
+  rw [lt_div_iff₀ (by positivity)] at hm₁
+  nlinarith [Nat.le_ceil (Real.exp m), show (2 : ℝ) ^ m > 0 by positivity]
+
+theorem ePow_subset_exp : ePow ⊆ exp := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: This is another place where the equivalence theorems from `Special.lean` are very useful; the following three-line proof worked for me. 
```
  intro f hf
  rw [exp_iff_rexp_mul]
  exact ⟨1, by simpa using ePow_iff_rexp.mp hf⟩
```

Comment (olivier-fischer) [reply Cslib/Algorithms/GrowthRate/Order.lean]: Similarly, `ePow_iff_rexp` might be useful for the theorems `twoPow_subset_ePow` and `ePow_ssubset_exp`

File: Cslib/Algorithms/GrowthRate/Order.lean [hunk 52]
```diff
@@ -0,0 +1,843 @@
...
+  use ⟨2, mod_cast Asymptotics.isBigO_refl ..⟩
+  norm_num [Asymptotics.isBigO_iff', ← mul_assoc]
+  intro x _ y
+  have ⟨n, _⟩ := exists_nat_gt x
+  refine ⟨2 ^ (y + n + 1), le_trans (by linarith) Nat.lt_two_pow_self.le, ?_⟩
+  rw [Nat.log_pow Nat.one_lt_ofNat]
+  push_cast
+  nlinarith [(by positivity : 0 < (2 : ℝ) ^ (y + n + 1) * (y + n + 1))]
+
+theorem nearLinear_subset_almostLinear : nearLinear ⊆ almostLinear := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Order.lean]: Here is another place where the equivalence results from `Special.lean` are very useful. On my machine, the following simplified proof compiles: 

```
-- Replace this at the start
-- obtain ⟨C, hC⟩ := hf 
obtain ⟨C, hC⟩ := nearLinear_iff_rlog.mp hf
```


```
-- Replace this at the end
-- have h_bound : ∃ D : ℝ, ∀ᶠ n in Filter.atTop,
  -- ...
  -- simpa [Asymptotics.isBigO_iff] using hC
exact hC.trans (h_log.isBigO.comp_tendsto tendsto_natCast_atTop_atTop)
```

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 53]
```diff
@@ -0,0 +1,1894 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Alex Meiburg
+-/
+
+module
+
+public import Cslib.Algorithms.GrowthRate.Special
+
+/-!
+# Named Growth Rates
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: It would be helpful to have a comment describing the closure properties proven in this file

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 54]
```diff
@@ -0,0 +1,1894 @@
...
+  choose C D hC using hp
+  exact ⟨C, D, fun n hn ↦ (hA _).trans <| (le_abs_self _).trans (hC n hn)⟩
+
+lemma Nat.log2_pow_le (b n : ℕ) : Nat.log 2 (b ^ n) ≤ n * (Nat.log 2 b + 1) := by
+  suffices Nat.log 2 (b ^ n) ≤ n * Nat.log 2 b + n by
+    linarith
+  suffices h : b ^ n ≤ 2 ^ (n * Nat.log 2 b + n) from
+    (Nat.log_mono_right h).trans (by simp)
+  rw [pow_add, pow_mul', ← mul_pow, ← pow_succ]
+  exact Nat.pow_le_pow_left (Nat.lt_pow_succ_log_self one_lt_two b).le n
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Is this lemma intended to be part of the public API? Since it is declared inside `CSLib.GrowthRate`, its full name is actually `CSLib.GrowthRate.Nat.log2_pow_le`, even though it looks like a general `Nat` lemma here. I also could not find a use of it in this file; it is mentioned in a comment in the theorem `log_comp_exp`, but not used. Could it be removed or made a private helper if it is meant to be used here? If it is intended as general Nat API, it might fit better in a more general module.

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 55]
```diff
@@ -0,0 +1,1894 @@
...
+theorem log_comp_exp (hf : f ∈ log) (hg : g ∈ exp) : f ∘ g ∈ linear := by
+  obtain ⟨B, K, hB⟩ : ∃ B K, ∀ᶠ n in .atTop, g n ≤ K * B ^ n := by
+    unfold exp at hg
+    norm_num [Asymptotics.isBigO_iff] at hg
+    obtain ⟨C, c, a, hc⟩ := hg
+    use C, ⌈c⌉₊
+    filter_upwards [Filter.eventually_ge_atTop a] with n hn
+    exact_mod_cast (hc n hn).trans
+      (mul_le_mul_of_nonneg_right (Nat.le_ceil _) <| by positivity)
+  -- Using `Nat.log_mul_le`, `log(K * B^n) ≤ log K + log(B^n) + 1`.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: The two `Nat` lemmas mentioned here do not seem to be used explicitly

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 56]
```diff
@@ -0,0 +1,1894 @@
...
+  refine ⟨N + 2, fun n hn ↦ ?_⟩
+  norm_cast
+  specialize hK n (by omega)
+  have _ : n ≤ n * Nat.log 2 n := Nat.le_of_lt_succ <|
+    by nlinarith [Nat.le_log_of_pow_le one_lt_two <| show 2 ^ 1 ≤ n by linarith]
+  nlinarith
+
+private lemma log_nearLinear_bound (D : ℕ) :
+    (fun n ↦ (Nat.log 2 (n * (Nat.log 2 n)^D) : ℤ)) =O[.atTop] (fun n ↦ (Nat.log 2 n : ℤ)) := by
+  -- Using the lemma `Nat.log_mul_le_add`, we bound `log₂(n * log₂(n)^D)`.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This `Nat` lemma also does not seem to be used explicitly, but rather a variant of it is proved here

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 57]
```diff
@@ -0,0 +1,1894 @@
...
+      nlinarith
+  apply Asymptotics.IsBigO.of_bound (Nat.log 2 C + D + 1)
+  norm_num +zetaDelta at *
+  obtain ⟨a, ha⟩ := hD
+  refine ⟨a + 2, fun n hn ↦ ?_⟩
+  norm_cast
+  nlinarith [ha n (by linarith), Nat.log_pos one_lt_two (by linarith : 1 < n)]
+
+/-- If g is linear, then g(n) * Nat.log(g(n)) is linearithmic. -/
+private lemma linear_mul_log_comp_linear {g : ℕ → ℕ} (hg : g ∈ linear) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This lemma is private and does not seem to be used anywhere. Could it be removed or is it intended to be part of the public API?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 58]
```diff
@@ -0,0 +1,1894 @@
...
+  refine ⟨c ⊔ M, a, fun n hn ↦ ?_⟩
+  rcases lt_or_ge (g n) a with h | h
+  · grw [← hM _ h, ← le_max_right, ← (show 1 ≤ |C| by rw [abs_of_nonneg] <;> linarith)]
+    simp
+  · grw [← le_max_left, hc _ h]
+
+/-- If f(n) is O(C^n) with 0 <= C <= 1, then f is polynomially bounded.
+TODO: Show this holds for any LawfulGrowthRate instead.
+-/
+private lemma exp_subset_poly_of_le_one {f : ℕ → ℕ} {C : ℝ} (hC₀ : 0 ≤ C) (hC₁ : C ≤ 1)
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This lemma is private and does not seem to be used anywhere. Could it be removed or is it intended to be part of the public API?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 59]
```diff
@@ -0,0 +1,1894 @@
...
+  have ⟨M, hM⟩ : ∃ M, ∀ n < a, f n ≤ M :=
+    ⟨(Finset.range a).sup f, fun n hn ↦ Finset.le_sup (Finset.mem_range.mpr hn)⟩
+  refine ⟨c ⊔ M, a, fun n hn ↦ ?_⟩
+  rcases lt_or_ge (g n) a with h | h
+  · grw [← hM _ h, ← le_max_right, ← (show 1 ≤ |C| by rw [abs_of_nonneg] <;> linarith)]
+    simp
+  · grw [← le_max_left, hc _ h]
+
+/-- If f(n) is O(C^n) with 0 <= C <= 1, then f is polynomially bounded.
+TODO: Show this holds for any LawfulGrowthRate instead.
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Should this TODO be addressed in this PR or left for a follow-up?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 60]
```diff
@@ -0,0 +1,1894 @@
...
+  erw [Real.norm_of_nonneg (by positivity)]
+  exact le_trans (Nat.cast_le.mpr (h_final_bound n hn))
+    (by norm_cast; nlinarith [h_K_bound n hn, show 0 ≤ c_f * c_g ^ k by positivity])
+
+theorem poly_comp_exp (hf : f ∈ poly) (hg : g ∈ exp) : f ∘ g ∈ exp := by
+  have ⟨k₁, hk₁⟩ := hf.imp fun _ ↦ mod_cast id
+  have ⟨k₂, hk₂⟩ := hg.imp fun _ ↦ mod_cast id
+  simpa [exp] using isBigO_poly_comp_exp hk₁ hk₂
+
+private lemma log_bound_of_quasipoly {g : ℕ → ℕ} (hg : g ∈ quasipoly) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Could this reuse `log_of_quasipoly_mem_polylog` (line 627) from before? That lemma already says that `log₂ ∘ g` is polylogarithmic, so the main additional step seems to be to convert from `ℤ` to `ℝ`.

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 61]
```diff
@@ -0,0 +1,1894 @@
...
+  have hfg_le_H : ∀ n, f (g n) ≤ H n := fun n ↦
+    le_trans (hC₂ _) (add_le_add_left (mul_le_mul_of_nonneg_left (hF₂.1 (hC₁ _)) (Nat.zero_le _)) _)
+  simp_rw [bigO, Set.mem_setOf_eq, Asymptotics.isBigO_iff, Filter.eventually_atTop]
+  use 1, 0
+  exact fun n hn ↦ by simpa using hfg_le_H n
+
+end computable
+
+/-- `poly` is `O(n)^O(1)`. -/
+theorem poly_eq_linear_pow_const : poly = linear ^ const := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This and the three theorems after are about powers, not composition, so maybe they should be in a separate section outside of `close_component`

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 62]
```diff
@@ -0,0 +1,1894 @@
...
+        Real.norm_eq_abs, Filter.eventually_atTop] at ⊢
+      rcases hC with ⟨b, a, hb⟩
+      refine ⟨2, one_lt_two, b, a, fun n hn ↦ ?_⟩
+      grw [hb n hn, ← one_le_pow₀ (by simp), mul_one]
+      grw [← hb a le_rfl, Nat.cast_nonneg']
+    · refine ⟨C + 1 + 1, by linarith, ?_⟩
+      norm_cast at *
+      rwa [Asymptotics.isBigO_iff] at hC ⊢
+
+lemma exp_bound_nat {f : ℕ → ℕ} (hf : f ∈ exp) :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Could `exp_bound_nat` be moved above and reused in `exp_comp_log` and `exp_comp_linear`? It already chooses a base `C > 1` and turns the eventual Big-O estimate into a global bound `f n ≤ M * C^n`. These seem to be exactly the two things reconstructed by the case split at lines 1384–1407 and the finite-prefix argument at lines 1503–1523. `exp_comp_polylog` already uses this scheme and might be a useful model here.

This might also make the private helper `isBigO_comp_exp_of_isBigO_exp` unnecessary.

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 63]
```diff
@@ -0,0 +1,1894 @@
...
+
+theorem sublinear_comp_linear (hf : f ∈ sublinear) (hg : g ∈ linear) : f ∘ g ∈ sublinear := by
+  obtain ⟨c, hc⟩ : ∃ c > 0, ∀ᶠ x in .atTop, |(f x : ℝ)| ≤ c * x := by
+    have h_sublinear : ∀ ε > 0, ∃ N, ∀ n ≥ N, |(f n : ℝ)| ≤ ε * n := by
+      intro ε hε_pos
+      have := hf.def (show 0 < ε by positivity)
+      simp_all
+    refine ⟨1, zero_lt_one, ?_⟩
+    obtain ⟨N, hN⟩ := h_sublinear 1 zero_lt_one
+    filter_upwards [Filter.Ici_mem_atTop N] with n hn using hN n hn
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: This `⟨c, hc⟩` appears to be unused

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 64]
```diff
@@ -0,0 +1,1894 @@
...
+namespace CSLib
+
+open scoped Topology
+
+namespace GrowthRate
+section closure_mul
+
+variable {f g : ℕ → ℕ}
+
+theorem polylog_mul (hf : f ∈ polylog) (hg : g ∈ polylog) : f * g ∈ polylog := by
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: Is it intentional that `polylog` and `quasipoly` only have elementwise multiplication lemmas? For `poly`, `exp`, `primitiveRecursive` and `computable`, the file also exposes a `@[simp]` equality of the form `A * A = A`. It looks like `polylog_mul_polylog` and `quasipoly_mul_quasipoly` would follow directly from these closure lemmas and `one_mem`. Would it make sense to add those equalities as well?

File: Cslib/Algorithms/GrowthRate/Closure.lean [hunk 65]
```diff
@@ -0,0 +1,1894 @@
...
+    f * g ∈ primitiveRecursive := by
+  rcases hf with ⟨a, ha₁, ha₂⟩
+  rcases hg with ⟨b, hb₁, hb₂⟩
+  use a * b
+  rw [← Primrec.nat_iff] at *
+  use Primrec.nat_mul.comp ha₁ hb₁
+  exact ha₂.mul hb₂
+
+@[simp]
+theorem primitiveRecursive_mul_self :
```
Comment (olivier-fischer) [inline Cslib/Algorithms/GrowthRate/Closure.lean]: I would suggest using one naming convention for these class-level multiplication lemmas. `poly_mul_poly` and `exp_mul_exp` have the same `A * A = A` shape as this theorem and `computable_mul_self`, but use `A_mul_A` rather than `A_mul_self`. Either convention seems fine, but using it consistently would make these results easier to find (the "self"-naming is probably shorter in general). Any new `polylog` and `quasipoly` equalities could then follow the same convention.

**Comment by olivier-fischer** [comment]
I have a few high-level questions.

1. I was wondering about the choice to define growth rates as sets of functions `ℕ → ℕ`. Keeping `ℕ` as the domain seems natural if it represents the input size, but is there a reason for requiring the values to be natural numbers as well? I can see that natural-valued functions are important for the `primitiveRecursive` and `computable` growth classes, since the witnesses in those definitions are functions `ℕ → ℕ`. Could those classes use natural-valued witnesses (with casts) in a more general framework?

   If I understand Mathlib’s asymptotics API correctly, it is generic in both the domain and the codomains. The constant in the `O(.)` bound is real because the comparison is between norms. I wonder how much of the code here could work with a more general codomain. Working over `ℕ` seems to require a fair amount of casting and might make some algebraic arguments harder. A real-valued codomain would also allow useful `o(1)` rates such as `n ↦ 1 / log (n + 2)`; right now, the only `o(1)` functions in the natural-valued framework are functions that are eventually zero (and hence the class `littleO 1` is not lawful under the current definition as it does not contain the constant function `1`). 

2. More generally, how does this relate to Mathlib’s existing asymptotics? From what I can tell, `bigO` and `littleO` are wrappers around the corresponding Mathlib notions, while the hierarchy of named growth classes and the results about their ordering and closure are new here. I also wonder which parts of this code could reuse existing Mathlib code. 

3. I think defining `GrowthRate` as an `abbrev` may cause an issue with the `Add` instance. Since `GrowthRate` is definitionally equal to `Set (ℕ → ℕ)`, this instance also competes with Mathlib’s pointwise addition instance for sets. In particular, `A + B` can use `GrowthRate.gadd` even when everything is explicitly typed as `Set (ℕ → ℕ)`.

   I made some small examples: [pointwise addition](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0BBdAcwFMsokcBxKCAVzBwAUJgA7GAd2AGdicBlYjBwAhJN2ABjAFChIsRCgzYcAFSSSYU6dIC0uuAFFWSLOmKK0mLAHJucSG048LSIqXJS4EMMXJaIVntAuF4YbmkfYlZQySiAEzhmJy5eHXjiADM4PDgALjhBeAAKQFRCOEAkwjhSgEp8gF44AG9igEZ86srqmoBfaQzskQ6iuDKu2obmto7yqtqAGlGAJhnx3p19QqE4JHj44ACYuPYkNns3dFDaEHsAA2yAajhCW7guNDh7uEAIIhzXpFYiVuhB%2BcBEt36WTgAGFhtsxnM6nlGrkniINgYABLRSQWW7Q17HCTccLebJoCxEmAA%2BCZWisTTAQJ3Jb%2FQGfADMEOIAA8kOBzB1YY0WisCrNuotihzVoiepMsABPaRwOD0zIQdCJWG5dGqiTgAD6F28rHQirgAG0ijgJKxCOYYIFjXtFjbQEgSIazn4YIbiABHN1CHAer12h1CQIAXRVcCgmXQQA), [GrowthRate addition competing with pointwise addition](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0BBdAcwFMsokcBxKCAVzBwAUJgA7GAd2AGdicBlYjBwAhJN2ABjAFChIsRCgzYcAFSSSYU6dIC0uuAFFWSLOmKK0mLAHJucSG048LSIqXJS4EMMXJaIVntAuF4YbmkfYlZQySiAEzhmJy5eHX04VVQeOBykGNMyYgA3YBRgQIAaOFYIeCQa4g44GABPX2lCqBK4aggONAAlFAsALgBeOEF4AApAVEI4QCTCODmASnSDAEkC%2BPjgAJiYCFDaEHsAAwAzOABqOEJz6rQcqP8KmLj2JDZ7Er9WuCXWisTTvPQGLB0VjxYiJRzsVIWLAAwIWCDXNAQXgnM7SGHXQhIXZwGZ4OAiOCjXo0AaoYYwYirSnU%2FpDEaU8bSOBwADeqGZC2WCwAPnBAMBEgLggAgiOB4aoSwjS8nVQAARDVqvyYoATIklMTuitYAF8NlM2JILOc%2BrT6cRzrlgqx0AD8nAuiUygcntl7Hl0Nxji7znhdudwbkgjB8ubAdAWqgLMCYVAnWxFW1fHBztMSYKVqtQz9IyCxrLiVa2QyOXBABfkhN2gEvyHT42XM7PzJZ5qs8mYARgFHbWxubFKpbdzay7vf7QtW1RmACZp3njWGAGKx56%2FAAeYG63AkVTgABliC7eOZNPY0Bbg%2FE7YWoxZ8WxYa7IcViGHC6fEujLMpbHseFnGxMJXV2fYwWbABhVshBzAcmQmFs7hEE1tgcJBYCkWh0Cw6pzmgu1amaT5Ix%2BOMLAALz8Y4gRBT1QjNCx9ntOBIUTWEw2AxF2IBa8cW8DF4zgT5uCLeB6NBQILh7O18kSc45OkYgtyQcBzGZGYAAYlwnGVYOQ5EuVE1B8hIcVJRlOVLMVGURDnXSqXHJkdWufUTNUjR4GrHtqmRJjwDgABtPAAF1qj8vjArAEKRAi6KJHAesgA), [GrowthRate as def with set-like interface](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0BBdAcwFMsokcBxKCAVzBwAUJgA7GAd2AGdicBlYjBwAhJN2ABjAFChIsRCgzYcAFSSSYU6dIC0uuAFFWSLOmKK0mLAHJucSG048LSIqXJS4EMMXJaIVntAuF4Ye2kfYlZQySiAEzhmJy5eHX04AFVWTABrVxiAA1MyYgA3QoAaODQeODrWCHhaVgAzCHR44kSkWhgIEBQpN3QATzhpLta4aggONAAlFAsALgBeOEF4AApAVEI4QCTCOF2ASh0TEGJuMA0LWfnUJZhidIN%2BejAx0KE4OL9JYCBexIViJS4gLB%2BbioYBgOCNGBDELtKBwQr3RbLQoTNjcRGsSSrTZCAAywHyMxoDyeFj2h2OJzg62kcDggAvyVotOB4OBrAB83OqnJiAH04GLULyBahAJfkr02Hy%2BElYhHM%2FRiIMSrTYwGeujC8KaSNYsiC%2BMJTM2bFVQhCdKOp0pc0xzyZaxZ7OFcGm%2FLg2wA3q0AL6WrZ%2B%2FYOk4nOWmvEgi0rOAASSCfh2EYZTupyzdHo5XOmPN9WxwuLT3u5MYAAgBtCTgAC6NVQxGgxBAcHBIuVNvVfumhEtGcdKw9rOmgAgiP3%2BwghxMYx7LRmAFMIKxtB8zWSWuz21YERcBWq0dLX62Am2hW1B2532wfUwptgOh%2FTHdsefOqS7iIzR6zx3AU5lgog48quPpwIOgAURBWU4fu6W5CDgXbATAB5HvKADyUBdKihBfpK%2FhXHAWDjAabCSOgtASCEsbmkSjBILAwBuNhuFZt%2BuasmwrR%2BCmcYEsQeD2NsjHMaxOF%2BH6Yb2gyUbyqoMLAvE8S6oCGpgJ8wDEYEXz9GiC40tikzEAOSAqX6PIiJahlLjZBE0lxcD%2BpKAA%2BcCAMBEsGCp5kGAXAIjVJKgAmRBWADUkFBjouL0ZaeAWbZrrrOyhDmfEMbRIkiUvApLa8HATEWNAqkmFAZFCNw1TcBAaJhdieLAOg6C3iC9iOOwqQWAaaVqbRUzcqGPyySOGz%2BtsACML6RlF%2FXWYmMnDr%2Bo0TVNDLVNsABMq2nFFJnTO1zi8O8HbzUNi1ugNEUiDoxAAB5IOA5iWgdnXHbyzmbdtJzrQAzF9c4bKRHotO0nQOCwHUuG9VkemeIojN4OTjDWJa7rarDwyp1QlqASAkPevCwCKxAAI7Y0huP42j6oNh6UCtOguVXK416QQRcBEZVoQ1YUdUtUEBkOcsOCpSpxn9ZQH4cYuSXLZNiaLTNpkzHN0uOclY3y8cr7fX6W0Kzru39fhzoy8Qb2fqb6sbJLcARZQ1k3fdj1EtsAAMX3%2BSb2bPBbgOjB6kioCCJC%2BZOMx4NUXmDlODvrR7BuRnAoXTBFhAendGjwGy43VKRoRyHANaSw21S5yRZGF8XIilxXBfgDKQA)

   Would it be safer to make `GrowthRate` a separate type, or maybe to leave `gadd` as a named operation?

4. The module comment in `Defs.lean` seems to describe definitions and results that now are in `Special.lean`, `Closure.lean` and `Order.lean`. I assume this is left over from before the file was split. Would it make sense to give each file a short introduction saying what it contains and how it is organized? 

   If I understand correctly, the dependency structure seems to be `Defs → Special → {Order, Closure}`. Could the imports follow this structure as well? At the moment, most of the Mathlib imports are in `Defs.lean`, and `Order.lean` imports `Closure.lean`. Unless `Order.lean` actually uses results from `Closure.lean`, I think it would be clearer for `Order.lean` and `Closure.lean` to import `Special.lean` directly, and for the Mathlib imports to be moved to the files where they are used.

**Comment by Timeroot** [comment]
Sorry, I hadn't properly responded to @crei 's question about the choice of axioms for LawfulGrowthRate. The reasoning is actually pretty specific, although I realize it's not fully argued in the docstring.

Take the `f ≤ g := ∃ c, ∀ n, f n ≤ c * g n` preorder that crei mentions, the Landau preorder. Then a set S of functions being a LawfulGrowthRate is exactly equivalent to S being an ideal in that preorder. Equivalently, let `M⁺ := {m : ℕ → ℕ | Monotone m ∧ 0 < m 0}` be the set of monotone, nonzero functions (as crei suggested); then a LawfulGrowthRate is equivalent to saying that S is a nonempty directed union of classes `O(m)` with some m ∈ M⁺.

`littleO 1` is indeed not lawful, but that's because the only monotone function it contains is 0, which we exclude from M⁺. Under the case of excluding the singleton-zero growth rate {0}, `one_mem` is equivalent to being nonempty. Why exclude the zero function? It's the only one such that `O(f(x))` and `O(f(x) + 1)` are not the same. That might seem narrow, but in practice you probably want to lots of time say that things like `(x^2 + 1) * (k^x + x -1)` is O(something), and you largely want to be able to add a constant without having to discharge a bunch of nonzero side conditions. `bigO` becomes a principal-ideal inclusion.

The other axioms correspond to the other axioms of being an ideal of M⁺:
 * mem_dominating is downward-closure. It is what makes f ∈ S an upper-bound statement and makes S invariant under =ᶠ.
 * mem_add is upward-directedness and absorption of constants: given down-closure, closure under + is equivalent to closure under max plus closure under c • ·.
 * comp_le_id is other direction of the equivalence. Without it the three remaining axioms say "S is an ideal of all functions ℕ → ℕ under ≼ (containing 1)". That family is strictly larger and includes pathologies like bigO f for oscillating f.
 
 I hope this makes the motivation clear! I could add some theorems that elucidate these. Like, an alternate constructor for LawfulGrowthRate, saying that including any nonzero function -- instead of specifically `1` -- is enough.

**Comment by Timeroot** [comment]
@olivier-fischer :

1. I had been planning that, after this is working ok, we could add a `Membership` instance (or similar) for other types, like a `ℕ → ℝ` membership that really asks if its ceiling (or floor?) is in the corresponding ℕ → ℕ set. (You could do this for any type with a sensible Norm, too). For something really called a "growth" rate I was thinking this would be enough, I was focused on monotone functions. I suppose that - yes, in principal you could say you want to talk about e.g. an error value dropping like `1 / x`, and then you need ℕ → ℝ from the start instead of ℕ → ℕ. But then you also probably want /antitone/ positive functions. I think it might be better with a separate setup altogether. Or maybe a common ground but a fairly disjoint set of lemmas. I'm not sure.

2. I tried to look for other Mathlib code and couldn't find much besides these two.

3. Good catch! I hadn't realized it would pull in the other instance. I think that making a GrowthRate into a def (or even a single-argument structure) is be safer in that sense, I agree that change should be made.

4. Happy to clean up import order. I think Order does use some facts from Closure, Closure sets up a lot of nice basic properties that make other proofs much cleaner. But we can also do this maybe a bit later after the other questions are more settled.

**Comment by Timeroot** [comment]
Oh, one more comment -- @crei , since you asked about proving things like

```
(Fintype.card State + 1) * ((2 * s + 1) ^ k * (Fintype.card Symbol + 1) ^ (2 * s + k))
```
is in 2^O(s). You're right that my proofs are somewhat "manual", but the whole point is that these facts set it up such that it's trivially easy to prove theorems like that. That's the whole reason I built this part up! It's really just a lot of applying `mem_mul`, `mem_add`, and `Closure.lean` has all the fact that you need like that `x < 2^O(x)` already!
